### PR TITLE
Refactor Algorithm and Environment

### PR DESCRIPTION
**Pull request by RemyDegenne**
Each round had two components: action and feedback. Now we have 3: observation -> action -> feedback.
If fits naturally settings like contextual bandits or prediction with expert advice, and it allows a nice refactor of `IsBayesAlgEnvSeq`, which can be written as
```lean
def IsBayesAlgEnvSeq (Q : Measure 𝓔) [IsProbabilityMeasure Q] (κ : Kernel (𝓔 × 𝓐) 𝓨)
    [IsMarkovKernel κ] (alg : Algorithm Unit 𝓐 𝓨)
    (E : Ω → 𝓔) (A : ℕ → Ω → 𝓐) (Y : ℕ → Ω → 𝓨)
    (P : Measure Ω) [IsProbabilityMeasure P] : Prop :=
  IsAlgEnvSeq (fun _ ↦ E) A Y (alg.comapObs (fun _ : 𝓔 ↦ ())) (bayesStationaryEnv Q κ) P
```
in which `bayesStationaryEnv Q κ` is a `Environment 𝓔 𝓐 𝓨`.

Depends on #226

### CODE REVIEW

File: LeanMachineLearning/SequentialLearning/Algorithm.lean [hunk 1]
```diff
@@ -42,420 +47,653 @@ open MeasureTheory ProbabilityTheory Filter Real Finset
...
-    stepKernel alg env 0 h = alg.p0 ⊗ₘ env.ν0 := by
+lemma stepKernel_zero (alg : Algorithm 𝓞 𝓐 𝓨) (env : Environment 𝓞 𝓐 𝓨) (h : Hist 𝓞 𝓐 𝓨 0) :
+    stepKernel alg env 0 h = env.obs0 ⊗ₘ (alg.p0 ⊗ₖ env.ν0) := by
   rw [Unique.eq_default h, stepKernel, Kernel.compProd_apply_eq_compProd_sectR]
+  congr 1
+  ext o s hs
+  rw [Kernel.sectR_apply, Kernel.compProd_apply hs, Kernel.compProd_apply hs]
   rfl
 
 section IsAlgEnvSeq
```
Comment (paulorauber) [inline LeanMachineLearning/SequentialLearning/Algorithm.lean:201]: In the spirit of getting `Algorithm` and `Environment` right once and for all, have you considered "bundling" the processes `{O : ℕ → Ω → 𝓞} {A : ℕ → Ω → 𝓐} {Y : ℕ → Ω → 𝓨}` into a structure or abbreviation? They almost always appear together, and conceptually this makes sense.

For example, if we had such an `S : LearningProcess`, then we could have `S.IsAlgEnvProcess alg env P`, and other random variables could be defined in the `LearningProcess` namespace. For example, we could have `S.history n`. 

I am not saying this is definitely the way to go, but I want to hear your thoughts.

Comment (RemyDegenne) [reply LeanMachineLearning/SequentialLearning/Algorithm.lean:201]: I think we should not do it. There would be projections `S.action`, `S.obs` everywhere in the code, which is heavier than just `A` or `O`. Also Mathlib uses a lot of function/process properties that would apply to projections but not to the structure unless we duplicate a log of API (Adapted, HasLaw, HasCondDistrib...), again forcing projections.

Comment (paulorauber) [reply LeanMachineLearning/SequentialLearning/Algorithm.lean:201]: We would probably want to access the actions/observations/feedbacks through `S.A`/`S.O`/`S.Y`. I agree that the code becomes heavier when dealing with these variables, but it is also becomes lighter when dealing with derived variables, which are already much more verbose (for example, `S.history n` is an improvement over `history O A Y n` ). But I don't want to press the issue too much - I trust your judgement.

File: LeanMachineLearning/SequentialLearning/IonescuTulceaSpace.lean [hunk 2]
```diff
@@ -33,306 +33,362 @@ open scoped ENNReal NNReal
...
-    HasCondDistrib (feedback 0) (action 0) env.ν0 (trajMeasure alg env) :=
+lemma hasCondDistrib_action_zero (alg : Algorithm 𝓞 𝓐 𝓨) (env : Environment 𝓞 𝓐 𝓨) :
+    HasCondDistrib (action 0) (obs 0) alg.p0 (trajMeasure alg env) :=
+  (isAlgEnvSeq_trajMeasure alg env).hasCondDistrib_action_zero
+
+lemma hasCondDistrib_feedback_zero (alg : Algorithm 𝓞 𝓐 𝓨) (env : Environment 𝓞 𝓐 𝓨) :
+    HasCondDistrib (feedback 0) (fun ω ↦ (obs 0 ω, action 0 ω)) env.ν0 (trajMeasure alg env) :=
   (isAlgEnvSeq_trajMeasure alg env).hasCondDistrib_feedback_zero
 
 lemma condDistrib_feedback_zero [StandardBorelSpace 𝓨] [Nonempty 𝓨]
```
Comment (paulorauber) [inline LeanMachineLearning/SequentialLearning/IonescuTulceaSpace.lean]: I believe the remaining lemmas in this file predate `HasCondDistrib` and can be deleted.

File: LeanMachineLearning/ForMathlib/MeasureTheory/MeasurableSpace/Option.lean
Comment (paulorauber) [inline LeanMachineLearning/ForMathlib/MeasureTheory/MeasurableSpace/Option.lean:1]: I am not sure why we are including this file.

**Review by paulorauber — APPROVED** [review]
